US08193236B2
3-[6-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazin-3-yl]-4-(1H-indol-3-yl)-pyrrole-2,5-dione
Potassium tert-butoxide (1.0 M in THF, 0.86 ml, 0.86 mmol, 3.0 equiv) is added dropwise at room temperature under an atmosphere of argon to a solution of 2-(1H-indol-3-yl)-acetamide (50 mg, 0.29 mmol, 1.0 equiv) and of [6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazin-3-yl]-oxo-acetic acid ethyl ester (158 mg, 0.32 mmol, 1.0 equiv) in anhydrous tetrahydrofuran (1.0 ml, dried over molecular sieves). The reaction mixture is stirred for 15 minutes at room temperature. It is then diluted with EtOAc and poured into a saturated aqueous NH4Cl solution. After three extractions with EtOAc, the combined organic layers are dried over Na2SO4, filtered and concentrated in vacuo. The residue is dissolved in N,N-dimethylformamide (1.0 ml), treated with DBU (0.43 ml, 2.9 mmol, 10 equiv) and stirred under an atmosphere of argon for 5 minutes at 110° C. After cooling, the reaction mixture is diluted with water and extracted three times with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification of the residue via flash chromatography (gradient of hexane/EtOAc 100:0 to 50:50) afford the title compound (60 mg, 34%). 1H NMR (400 MHz, d6-DMSO): δ=12.05 (br s, 1H), 11.25 (br s, 1H), 8.85 (d, J=1.2 Hz, 1H), 8.04 (s, 1H), 7.76 (s, 1H), 7.51-7.45 (m, 4H), 7.41-7.30 (m, 6H); 6.95 (t, J=7.1 Hz, 1H), 6.47 (t, J=7.4Hz, 1H), 5.76 (d, J=8.0 Hz, 1H), 4.59-4.47 (m, 2H), 2.82 (s, 3H), 0.92 (s, 9H). MS (ES+): 612 (M+H)+.

reactant | Potassium tert-butoxide | 0.86 mmol, 1.0 M, 0.86 ml, 3.0 equiv | CC(C)([O-])C.[K+]
reactant | 2-(1H-indol-3-yl)-acetamide | 0.29 mmol, 50 mg, 1.0 equiv | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
reactant | [6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazin-3-yl]-oxo-acetic acid ethyl ester | 0.32 mmol, 158 mg, 1.0 equiv | C(C)OC(C(=O)C1=C(N=C2N1C=C(N=C2)C(O[SiH2]C(C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C)=O | C28H31N3O4Si
reactant | NH4Cl | [NH4+].[Cl-]
reactant | DBU | 2.9 mmol, 0.43 ml, 10 equiv | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 3-[6-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazin-3-yl]-4-(1H-indol-3-yl)-pyrrole-2,5-dione | 60 mg, 34% | C(C)(C)(C)[SiH2]OC(C=1N=CC=2N(C1)C(=C(N2)C)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H33N5O3Si
